US08431563B2
n-BuLi (9.5 mL, 2.5 M solution with toluene, 24 mmol) was added to a stirring mixture of methyltriphenylphosphonium bromide (8.5 g, 24 mmol) and THF (100 mL) at room temperature under a nitrogen atmosphere. After 1 h, 1-(4-bromophenyl)-2,2,2-trifluoroethanone (3.0 mL, 20 mmol, Sigma-Aldrich, St. Louis, Mo.) was added. After an additional 1 h, saturated aqueous ammonium chloride (50 mL) was added. The mixture was partitioned between diethyl ether (100 mL) and saturated aqueous ammonium chloride (50 mL). The layers were separated, the organic material was washed sequentially with saturated aqueous ammonium chloride (50 mL) and brine (50 mL), dried (MgSO4), and purified via column chromatography (35 g of silica, 1% EtOAc in hexanes) to provide 1-bromo-4-(1-(trifluoromethyl)ethenyl)benzene (3.5 g) as an orange oil.

reactant | n-BuLi | 24 mmol, 2.5 M, 9.5 mL | [Li]CCCC
reactant | 1-(4-bromophenyl)-2,2,2-trifluoroethanone | 20 mmol, 3.0 mL | BrC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4BrF3O
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
catalyst | methyltriphenylphosphonium bromide | 24 mmol, 8.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-bromo-4-(1-(trifluoromethyl)ethenyl)benzene | 3.5 g | BrC1=CC=C(C=C1)C(=C)C(F)(F)F | C9H6BrF3
